US08633189B2
To a solution of 2-(5-cyclopentyl-4-hydroxy-2-nitro-phenyl)acetic acid (270 mg, 1.02 mmol) in methanol was added thionyl chloride (149 μL, 2.04 mmol) dropwise at 25° C. The mixture was stirred at room temperature for 1 h. The reaction was diluted with dichloromethane and washed with 50% saturated NaHCO3 (2×50 mL), brine, dried over Na2SO4, and concentrated in vacuo to afford methyl 2-(5-cyclopentyl-4-hydroxy-2-nitro-phenyl)acetate as clear brown oil (180 g, 63% yield). LC/MS m/z 280.0 [M+H]+.

reactant | 2-(5-cyclopentyl-4-hydroxy-2-nitro-phenyl)acetic acid | 1.02 mmol, 270 mg | C1(CCCC1)C=1C(=CC(=C(C1)CC(=O)O)[N+](=O)[O-])O | C13H15NO5
reactant | thionyl chloride | 2.04 mmol, 149 μL | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
product | methyl 2-(5-cyclopentyl-4-hydroxy-2-nitro-phenyl)acetate | 180 g, 63% yield | C1(CCCC1)C=1C(=CC(=C(C1)CC(=O)OC)[N+](=O)[O-])O | C14H17NO5
